US04826869
1-Methyl-2-(3'-ureidobenzyl)pyrrole
To a stirred solution of 4.4 g (23 mmol) of 1-methyl-2-(3'-aminobenzyl)pyrrole in 400 ml of benzene there were added 3.08 g (47 mmol) of sodium cyanate followed by the dropwise addition of a solution of 3.65 ml (47 mmol) of trifluoroacetic acid in 300 ml of benzene. When the addition was completed, the reaction mixture was stirred at room temperature for 1 hour further and then poured into 500 ml of saturated sodium carbonate solution. The organic phase was separated and the aqueous layer extracted with ethyl acetate (3×500 ml). The combined extracts were washed with water (1×500 ml), dried and evaporated under reduced pressure. The residue was purified by column chromatography on 500 g of silica gel, using methylene chloride-acetone (80:20) as eluant, thus obtaining 5.1 g (90%) of the title compound, 1-methyl-2-(3'-ureidobenzyl)pyrrole, which was recrystallized from acetone-hexane.

reactant | 1-methyl-2-(3'-aminobenzyl)pyrrole | 23 mmol, 4.4 g | CN1C(=CC=C1)CC1=CC(=CC=C1)N | C12H14N2
reactant | sodium cyanate | 47 mmol, 3.08 g | [O-]C#N.[Na+]
reactant | trifluoroacetic acid | 47 mmol, 3.65 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium carbonate | 500 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | benzene | 400 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | 1-Methyl-2-(3'-ureidobenzyl)pyrrole | 5.1 g, 90% | CN1C(=CC=C1)CC1=CC(=CC=C1)NC(=O)N | C13H15N3O
